US08729263B2
A mixture of pyrazole-4-amine dihydrochloride (0.75 g, 4.79 mmol), salicylaldoxime (0.131 g, 0.96 mmol), cesium carbonate (4.69 g, 14.38 mmol), cuprous oxide (0.06 g, 0.29 mmol), 1-bromo-4-iodo-2-methoxybenzene (1.5 g, 4.79 mmol) and N,N-dimethyl-formamide (5 mL) were combined in a microwave vial fitted with an N2 inlet and magnetic stir bar. The reaction mixture was stirred under a nitrogen atmosphere at 90° C. overnight. The solution obtained was allowed to cool to RT, then filtered through celite and the filtrate was concentrated in vacuo. The crude material was purified by silica gel chromotography (10% to 60% EtOAc in heptanes) to give 1-(4-bromo-3-methoxyphenyl)-1H-pyrazol-4-amine (250 mg, MS: 270.2 [M+H+].)

reactant | pyrazole-4-amine dihydrochloride | 4.79 mmol, 0.75 g | Cl.Cl.N1N=CC(=C1)N
reactant | salicylaldoxime | 0.96 mmol, 0.131 g | C(C=1C(O)=CC=CC1)=NO | C7H7NO2
reactant | cesium carbonate | 14.38 mmol, 4.69 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-4-iodo-2-methoxybenzene | 4.79 mmol, 1.5 g | BrC1=C(C=C(C=C1)I)OC | C7H6BrIO
solvent | N,N-dimethyl-formamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-(4-bromo-3-methoxyphenyl)-1H-pyrazol-4-amine | 250 mg | BrC1=C(C=C(C=C1)N1N=CC(=C1)N)OC | C10H10BrN3O
